US08440652B2
General method C was applied to 4-(6-amino-5-bromopyridin-3-yl)-N-cyclopropylbenzenesulfonamide hydrobromide (92 mg, 0.25 mmol) and 4,4-dimethyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroisoquinolin-1(2H)-one (75 mg, 0.25 mmol) to give 4-(6-amino-5-(4,4-dimethyl-1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)pyridin-3-yl)-N-cyclopropylbenzenesulfonamide (43 mg, 37% yield) as a white solid after purification by flash chromatography over silica gel (2-5% MeOH/DCM eluent). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.61 (s, 1H), 8.06 (d, J=8.5 Hz, 2H), 7.96-8.02 (m, 2H), 7.80 (d, J=1.5 Hz, 1H), 7.75 (dd, J=7.5, 1.5 Hz, 1H), 7.62 (d, J=8.5 Hz, 2H), 6.00 (s, 2H), 3.20 (d, J=2.0 Hz, 2H), 2.06-2.18 (m, 1H), 1.33 (s, 6H), 0.33-0.55 (m, 4H); MS (EI) m/z=463.6 [M+1]+.

reactant | 4-(6-amino-5-bromopyridin-3-yl)-N-cyclopropylbenzenesulfonamide hydrobromide | 0.25 mmol, 92 mg | Br.NC1=C(C=C(C=N1)C1=CC=C(C=C1)S(=O)(=O)NC1CC1)Br
reactant | 4,4-dimethyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroisoquinolin-1(2H)-one | 0.25 mmol, 75 mg | CC1(CNC(C2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C)=O)C | C17H24BNO3
product | 4-(6-amino-5-(4,4-dimethyl-1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)pyridin-3-yl)-N-cyclopropylbenzenesulfonamide | 43 mg, 37% yield | NC1=C(C=C(C=N1)C1=CC=C(C=C1)S(=O)(=O)NC1CC1)C=1C=C2C(CNC(C2=CC1)=O)(C)C | C25H26N4O3S
